US07750154B2
To a solution of N-cyclopropyl-4-methyl-3-[6-[(2-methylprop-2-en-1-yl)oxy]-4-oxoquinazolin-3(4H)-yl]benzamide (1.76 g) in acetone/water (4:1, 40 ml) was added N-methylmorpholine-N-oxide (2.1 g) followed by a solution of osmium tetroxide in 2-methyl-2-propanol (2.5% solution, 1.2 ml). After 18 hours sodium bisulfite (0.1 g) was added and the mixture stirred for a further 1 hour. The crude mixture was poured into water (20 ml) and extracted into ethyl acetate (300 ml). The combined organic extracts were washed with brine (100 ml), dried (magnesium sulfate) and concentrated. Purification by preparative HPLC provided N-cyclopropyl-3-[6-(2,3-dihydroxy-2-methylpropoxy)-4-oxoquinazolin-3(4H)-yl]4 methylbenzamide (AZ12197886) (0.5 g); NMR Spectrum: (CDCl3) 0.45 (m, 2H), 0.75 (m, 2H), 1.32 (s, 3H), 1.70 (m, 2H), 2.10 (s, 3H), 2.70 (m, 1H), 3.60 (d, 1H), 3.70 (m, 1H), 3.90 (m, 2H), 6.70 (d, 1H), 7.30 (m, 1H), 7.45 (m, 1H), 7.50 (m, 2H), 7.70 (m, 1H), 7.90 (s, 1H), 7.95 (t, 1H); Mass Spectrum: M+H+ 424. Further elution provided N-cyclopropyl-3-(6-isobutoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide (AZ12198379) as a clear oil (70 mg); NMR Spectrum (CDCl3) 0.50 (m, 2H), 0.90 (m, 2H), 1.10 (s, 3H), 1.15 (s, 3H), 2.15 (m, 1H), 2.20 (s, 3H), 2.90 (m, 1H), 3.90 (d, 2H), 6.60 (s, 1H), 7.40 (m, 2H), 7.60 (d, 1H), 7.70 (m, 2H), 7.80 (m, 1H), 7.90 (s, 1H); Mass Spectrum M+H+ 392.

reactant | N-cyclopropyl-4-methyl-3-[6-[(2-methylprop-2-en-1-yl)oxy]-4-oxoquinazolin-3(4H)-yl]benzamide | 1.76 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OCC(=C)C)=O | C23H23N3O3
reactant | N-methylmorpholine-N-oxide | 2.1 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium bisulfite | 0.1 g | S([O-])(O)=O.[Na+]
reactant | water | 20 ml | O | H2O
reactant | acetone water | 40 ml | CC(=O)C.O
solvent | 2-methyl-2-propanol | 1.2 ml | CC(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | N-cyclopropyl-3-[6-(2,3-dihydroxy-2-methylpropoxy)-4-oxoquinazolin-3(4H)-yl]4 methylbenzamide | 0.5 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OCC(CO)(C)O)=O | C23H25N3O5
